Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Amoxicillin / amlodipine
 
Attending: ___.
 
Chief Complaint:
altered mental status 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with PMH DMII, lung adenoca s/p erlotinib tx, bladder ca, 
HTN, anxiety, GERD, dementia, p/w AMS x 2 days at nursing home. 
Per family has had increased confusion. Per family, had fall in 
her assisted living facility last week. Patient has been 
recalling events that occurred many years ago, speaking about 
her husband dying recently (died many years ago). 

Per daughter, ___, pt lives in an assisted living. She has 
mild to moderate dementia from combination of hypertension and 
hydrocephalus. Daughter states that her mom has had declining 
cognition over the past decade now with periodic episodes that 
are alarming. She received a phone call from the assisted living 
about a week ago that her mom fell and was found on the floor of 
her room. She has also been talking about her 
husband/brother/best friend dying recently when they have died 
years ago. She also started talking about her sister's sex life. 
Daughter says these stories are new over the past week and she 
has never heard her mom talk about other's death or sex life.
 
In the ED, initial vs were: 97.2 74 149/54 18 100% on RA. Labs 
were notable for BUN 26 with normal CBC and electrolytes. UA 
that was initially negative and later on with trace leuks, WBC 
23. CXR unremarkable for consolidation or interstitial pattern. 
CT head showed No acute intracranial process but notable for 
dilated ventricles disproportionate to sulci configuration 
stable since MRI from ___. Patient was given 1L IVF, 
vancomycin and ceftriaxone to cover ?UTI vs cellulitis.

Vitals on Transfer: 97.8 76 169/59 19 98% RA.  
 
On the floor, vs were: T 97.3 P 72 BP 146/59 R 18 O2 sat 100% on 
RA. She is in no acute distress. She says that she ambulates 
with a walker. She is A&Ox3 but talks about her husband, 
brother, and best friend dying recently.  

Of note, pt was admitted to ___ due to fall and head strike 
which resulted in small left frontal SAH. Fall was thought to be 
due to hypovolemia from poor po intake and vasovagal as she was 
in a balance class. She was seen ___ by psychiatry for 
cognitive decline and anxiety. Remeron dose was increased to 
22.5 on this visit.   

 
Past Medical History:
T2DM diet controlled, recurrent bladder ca, htn, melanoma left 
arm, anxiety, osteoporosis, GERD,communicating hydrocephalus, 
congenital nystagmus, COPD
 
Social History:
___
Family History:
Father with DM.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
Vitals: T 97.3 P 72 BP 146/59 R 18 O2 sat 100% on RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, grade II/VI 
systolic murmur heard in the pericordial region 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Rt anterior/medial leg: 5x5 cm area with erythema, edema, 
warmth to touch. 2mm open skin lesion. tender to palpation. Lt 
leg: medial erythema and trace edema.   
Neuro: A&Ox3, strength intact globally, unable to assess gait

PHYSICAL EXAM ON DISCHARGE:
VITALS: 98.2 71 148/60 18 100% on RA 
General: Alert, oriented, no acute distress, hard of hearing, 
has difficulty with recall, good attention and can count the 
days of the week backwards   
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, grade II/VI 
systolic murmur heard in the pericordial region 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Rt anterior/medial leg: 5x5 cm area with erythema, edema, 
warmth to touch. 2mm open skin lesion. tender to palpation. Lt 
leg: medial erythema and trace edema.   
Neuro: A&Ox3, strength intact globally, unable to assess gait 
 
Pertinent Results:
LABS ON ADMISSION:
===================
___ 02:20PM URINE  COLOR-Red APPEAR-Hazy SP ___
___ 02:20PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR
___ 02:20PM URINE  RBC->182* WBC-23* BACTERIA-NONE 
YEAST-NONE EPI-0
___ 12:30PM   LACTATE-1.3
___ 12:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:30PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:30PM URINE  RBC-12* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 12:20PM   GLUCOSE-116* UREA N-23* CREAT-0.8 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-27 ANION GAP-17
___ 12:20PM   estGFR-Using this
___ 12:20PM   WBC-9.3 RBC-3.97* HGB-12.6 HCT-40.0 MCV-101* 
MCH-31.9 MCHC-31.6 RDW-13.4
___ 12:20PM   NEUTS-75.6* LYMPHS-11.7* MONOS-8.1 EOS-3.8 
BASOS-0.7
___ 12:20PM   PLT COUNT-256

LABS ON DISCHARGE:
==================
___ 04:05PM BLOOD WBC-8.2 RBC-3.62* Hgb-11.6* Hct-36.4 
MCV-101* MCH-32.1* MCHC-32.0 RDW-13.3 Plt ___
___ 06:40AM BLOOD Glucose-109* UreaN-19 Creat-0.9 Na-141 
K-5.4* Cl-104 HCO3-29 AnGap-13
___ 06:40AM BLOOD Calcium-9.1 Phos-3.2 Mg-2.1
___ 06:40AM BLOOD TSH-2.3
___ 06:40AM BLOOD WBC-8.3 RBC-3.35* Hgb-11.2* Hct-34.0* 
MCV-102* MCH-33.6* MCHC-33.0 RDW-13.6 Plt ___

MICROBIOLOGY:
=================
BLOOD CULTURE: PENDING
URINE CULTURE: PENDING

STUDIES:
==========
NCHCT ___:
IMPRESSION: 
1.  No acute intracranial process.  MRI is more sensitive at 
detecting 
intracranial metastases.    
2.  Stable enlargement of the ventricles which are 
disproportionate to 
cerebral sulci configuration, raising the possibility of normal 
pressure 
hydrocephalus.  Correlate clinically with symptoms.  

CXR ___:
No acute cardiopulmonary process.
 
Brief Hospital Course:
___ with PMH DMII, lung adenoca s/p erlotinib tx, bladder ca, 
HTN, COPD, anxiety, GERD, dementia, p/w AMS x 2 days at nursing 
home.
 
#) AMS: Most likley due to medications as other possible causes, 
including infection, less likely. We discontinued memantine 
(added in ___ and reduced remeron dose to 15mg (increased 
to 22.5 in early ___. Other possible explanations include 
toxic/metabolic (UTI but UA not concerning for infection and/or 
mild cellulitis), worsening of her underlying dementia, 
medication-induced, NPH (history of stable hydrocephalus and 
incontinence), malignancy (history of lung/bladder cancer), CVA 
(neuro exam non-focal and NCHCT negative).  Pt has history of 
falls (thought to be hypovolemia and vasovagal), incontinence 
and stable hydrocephalus. Thus, she meets the triad for NPH. 
However, hydrocephalus has been a chronic issue and it is stable 
based on recent NCHCT. On previous neuropsych evaluation, she 
was found to have mild to moderate dementia d/t combination of 
hydrocephalus, vascular, as well as alzheimer's. Pt is currently 
A&Ox3 but tends to confabulate (making up stories about other's 
death). Confabulation is common among patients with dementia, 
particularly Alzheimer's. Pt's mental status seems to be at 
baseline based on collateral information and confabulations may 
very likely be a sign of progressing baseline dementia. Since 
hydrocephalus is stable based on imaging, it is unlikely that 
the current changes is a result of worsening NPH.  

#) Cellulitis of Rt anterior leg: Pt has surrounding erythema, 
edema, and warmth to touch in the Rt anterior leg but no 
evidence of purulence. She does not have any systemic symptoms 
such as fever and elevated WBC. She was initially treated with 
vancomycin (3 doses) and transitioned to bactrim DS one tablet 
bid x5 days upon discharge. 

#) Hematuria: The first UA is remarkable for 12 RBC and the 
second one for 182. The urine in the foley looks bright red. 
Possible explanations include traumatic d/t foley placement vs. 
malignancy given history of bladder cancer in the past. We 
discontinued foley and monitored urine output. We recommend 
outpatient follow up if hematuria continues. 

#) Drop in hemoglobin: On admission, Hgb 12.6 and next day, it 
dropped to 11.2 but stable at 11.6 on discharge. We recommend 
H&H check ___ days after discharge. It may have been dilutional 
as patient received 1L IVF. 

#) Dementia/anxiety: We reduced remeron dose to 15mg daily from 
22.5mg daily. It was increased to 22.5mg in early ___ by 
neuropsychiatry. We discontinued namenda. We continued aricept.  


#) Lung cancer: Pt is on tarceva 100mg daily for maintenance 
therapy. However, this medication was not given while inpatient. 


#) Dysplipidemia:
- cont. simvastatin 5mg daily

#) Primary intervention:
- cont. ASA 81mg daily

#) DMII: A1C on ___ 6.2. Pt currently on no medications for 
diabetes at home. 
- cont. to monitor glucose
- diabetic diet  

TRANSITIONAL ISSUES:
[] cont. bactrim for 5 days, last dose on ___
[] check Hct/Hgb in ___ days 
[] monitor UOP and for hematuria
[] if hematuria continues, consider urology follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezes  
2. Donepezil 10 mg PO HS 
3. Erlotinib 100 mg PO DAILY 
4. Memantine 10 mg PO BID 
5. Mirtazapine 22.5 mg PO HS 
6. Simvastatin 5 mg PO DAILY 
7. Acetaminophen 650 mg PO Q6H:PRN pain 
8. Aspirin 81 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezes  
3. Aspirin 81 mg PO DAILY 
4. Donepezil 10 mg PO HS 
5. Mirtazapine 15 mg PO HS 
RX *mirtazapine 15 mg One tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
6. Simvastatin 5 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg One tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0
9. Erlotinib 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. altered mental status
2. cellulitis 
3. hematuria 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You presented to us with altered mental status. 
We checked your urine and it was not concerning for infection 
but the urine culture is still pending. You were found to have 
blood in your urine which is most likely due to traumatic foley 
placement. If you continue to have bleeding in your urine, 
please follow up with your outpatient urologist. Your chest 
X-ray was negative for infection. Your electrolytes were normal 
and there was no sign of dehydration. You were found to have 
swelling and redness of your right lower leg which was 
concerning of superficial skin infection and you were treated 
with antibiotics. We believe the most likely cause of your 
worsening cognition is medications. We made adjustment to your 
medications. We stopped menantine and reduced remeron dose to 
15mg. We recommend discontinuing hollistic medications or review 
it with your PCP since we do not know how they interact with 
your medications. 

Please take all your medications as instructed. Please complete 
your antibiotics course. Please attend all your follow up 
appoitments. 
 
Followup Instructions:
___